US04698350
To a stirred solution containing 200 g. of 7-(2,6-dimethyl-4-pyridinyl)-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 440 ml of 95-98% H2SO4 was added a solution of 80 ml of 90% HNO3 in 80 ml of 95-98% H2SO4 over a period of one hour. The resulting solution was stirred at room temperature for an additional 20 minutes, then heated on a steam bath for 8 hours. The reaction mixture was allowed to stand at room temperature overnight and then poured into 6000 ml of ice water. The precipitate was collected and slurried in approximately 2000 ml water. Concentrated NH4OH was added to reach a pH of 5.5-6.0. The solid was collected and washed with a small amount of ethanol and ether. Additional material was obtained by treating the original filtrate with NH4OH as described above. Recrystallization from dimethylformamide gave several crops totalling 135 g (59%) and melting from 274° C. to 298° C. A 2.8 g sample was recrystallized from 20 ml of dimethylformamide, washed with ether and dried at 120° C. for 16 hours at 0.02 mm to produce 1.54 g of 1-ethyl-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-6-nitro-4-oxo-3-quinolinecarboxylic acid, m.p. 289°-291° C.

reactant | 7-(2,6-dimethyl-4-pyridinyl)-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | CC1=NC(=CC(=C1)C1=CC=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)C | C19H18N2O3
reactant | HNO3 | 80 ml | [N+](=O)(O)[O-] | HNO3
reactant | NH4OH | [NH4+].[OH-]
solvent | H2SO4 | 440 ml | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 80 ml | OS(=O)(=O)O | H2O4S
product | 1-ethyl-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-6-nitro-4-oxo-3-quinolinecarboxylic acid | 1.54 g | C(C)N1C=C(C(C2=CC(=C(C=C12)C1=CC(=NC(=C1)C)C)[N+](=O)[O-])=O)C(=O)O | C19H17N3O5
